### ISSUE TITLE
Feature: Declarative IDE Hints

### ISSUE THREAD

**Issue by enigmurl** [onriv/lean4ij#13]
I am interested in this project and would like to offer help. In particular, when working on lean I have often felt that in addition to an interactive proof, it would very helpful to have live annotations at several places through the document.

For instance, in something similar to #check, rather than having to scroll over check, it would be nice if it just always appeared, similar to Rust type hints if you've ever seen it in RustRover.  Below, the /- -/ denote where the IDE annotations would go.

```lean
theorem example_lemma (h: 1 ≤ 2) : 2 ≤ 3 := by sorry 
#check example_lemma /- (h: 1 ≤ 2) : 2 ≤ 3 -/
```

Similarly, rather than having to move cursor to see the proof goal, it would be helpful if the goal for various parts of the proof were shown automatically (in particular whenever the main goal changes, or some other heuristic). Say, something like this:

```lean
theorem a_le_b (h : a ≤ b) : 0 ≤ b - a := by
  /- 0 ≤ b - a -/
  suffices a + -a ≤ b + -a by
    rw [add_right_neg] at this
    rw [sub_eq_add_neg]
    /- 0 ≤ b + -a -/
    exact this
  apply add_le_add_right
  exact h
```

Does this sound interesting? If so, I would be willing to help out with development.

**Comment by angelozerr** [comment]
Displaying those information is possible with LSP Inlay Hint. If your language server can support inlay hint, LSP4IJ will render it.
